US08048884B2
Preparation 30:1-Methyl-1H-pyrazole-4-sulfonic acid (2,2-dimethoxy-ethyl)-methyl-amide
Cool a solution of methylaminoacetaldehyde dimethyl acetal (22.5 mL, 0.18 mol) and triethylamine (26.5 mL, 0.19 mol) to 0° C. in CH2Cl2, then add dropwise a solution of 1-methyl-1H-pyrazole-4-sulfonyl chloride (30 g, 0.17 mol). Stir the reaction mixture at room temperature overnight, dilute with CH2Cl2 (500 mL), and wash with water. Dry the combined organics over Na2SO4, filter and concentrate. The resulting oil is placed under high vacuum and within two hours a resulting off white solid is formed, which is used without further purification (38.22 g, 87%).

reactant | methylaminoacetaldehyde dimethyl acetal | 0.18 mol, 22.5 mL | COC(CNC)OC | C5H13NO2
reactant | triethylamine | 0.19 mol, 26.5 mL | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-1H-pyrazole-4-sulfonyl chloride | 0.17 mol, 30 g | CN1N=CC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 1-Methyl-1H-pyrazole-4-sulfonic acid (2,2-dimethoxy-ethyl)-methyl-amide | COC(CN(S(=O)(=O)C=1C=NN(C1)C)C)OC | C9H17N3O4S
